US06498165B1
2-[(S)-1-Phenylethylamino]-4-[4-trifluoromethyl-5-aminobenzimidazol-1-yl]pyrimidine
To a stirred solution of 2-[(S)-1-phenylethylamino]-4-[5-amino-benzimidazol-1-yl]pyrimidine (330 mg, 1 mmol, 1 eq) in DMF (2 mL) was added S-(trifluoromethyl)-dibenzothiophenium-3-sulfonate (166 mg, 0.5 mmol, 0.5 eq) and the mixture was heated to 80° C. for 7 hours. The reaction was cooled and the DMF was removed under reduced pressure. The residue was diluted with water and extracted wth CH2Cl2. The organic extracts were combined, dried over anhydrous Na2SO4, filtered and concentrated under reduced pressure. The product was purified by column chromatography (eluted with 3.5% MeOH/CH2Cl2) followed by preparative thin layer chromatography (eluted 2× with 3.5% MeOH/CH2Cl2) to give 46 mg of the title compound. 1H NMR (500 MHz, CDCl3): δ 1.63 (3H, d, J=7 Hz), 4.32 (3H, s), 5.13 (1H, br s), 5.80 (1H, br s), 6.62 (1H, br), 6.70 (1H, d, J=5.5 Hz), 7.29 (1H, m), 7.39 (2H, t, J=7.5 Hz), 7.43 (2H, d, J=7 Hz), 7.62 (1H, br), 8.38 (1H, d, J=5.5 Hz), 8.40 (1H, br). Mass spectrum (ESI) 398.14 (M+1).

reactant | 2-[(S)-1-phenylethylamino]-4-[5-amino-benzimidazol-1-yl]pyrimidine | 1 mmol, 330 mg, 1 eq | C1(=CC=CC=C1)[C@H](C)NC1=NC=CC(=N1)N1C=NC2=C1C=CC(=C2)N | C19H18N6
reactant | S-(trifluoromethyl)-dibenzothiophenium-3-sulfonate | 0.5 mmol, 166 mg, 0.5 eq | FC([S+]1C2=C(C3=C1C=CC=C3)C=CC(=C2)S(=O)(=O)[O-])(F)F | C13H7F3O3S2
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 2-[(S)-1-Phenylethylamino]-4-[4-trifluoromethyl-5-aminobenzimidazol-1-yl]pyrimidine | 46 mg | C1(=CC=CC=C1)[C@H](C)NC1=NC=CC(=N1)N1C=NC2=C1C=CC(=C2C(F)(F)F)N | C20H17F3N6
